US06676816B2
2-(2-pyridyl)imidazole (6.91 g), iodobenzene (11.47 g), Cs2CO3 (25 g), and copper powder (15 g) were mixed in 60 mL anhydrous DMF in a 250 mL round bottom flask equipped with a magnetic stirrer and a reflux condenser. The mixture is degassed with N2 for 15 minutes at room temperature and then refluxed under N2 in an oil bath for 24 hours. The resulting mixture was cooled to room temperature and suction-filtered to remove the solid byproduct. The filtrate was extracted with EtOAc (3×100 mL). The combined organic layer was washed with H2O (2×100 mL) and then with saturated NaCl (2×150 mL), and subsequently dried with anhydrous Na2SO4. Evaporation of the solvent gave crude 1-phenyl-2(2-pyridyl)imidazole. The crude product is generally pure enough to use in making redox mediators, although the crude product may be further purified using a silica gel column and eluting with MeOH/CHCl3.

reactant | 2-(2-pyridyl)imidazole | 6.91 g | N1=C(C=CC=C1)C=1NC=CN1 | C8H7N3
reactant | iodobenzene | 11.47 g | IC1=CC=CC=C1 | C6H5I
reactant | Cs2CO3 | 25 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
catalyst | copper | 15 g | [Cu] | Cu
product | 1-phenyl-2(2-pyridyl)imidazole | C1(=CC=CC=C1)N1C(=NC=C1)C1=NC=CC=C1 | C14H11N3
